US07807672B2
Preparation of 2-(3-Fluoro-phenyl)-2,5-diaza-bicyclo[2.2.1]heptane
To a mixture containing 2,5-Diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (100 mg, 0.5 mmol), 3-fluoro-phenylbromide (103.8 mg, 0.6 mmol), Pd(AcO) (8 mg, 0.03 mmol), 2-(di-t-butylphosphino)biphenyl (20 mg, 0.07 mmol) and sodium t-butoxide (100 mg, 1 mmol) in toluene (3 mL) was degassed with Ar. The reaction mixture was heated at 50 C for overnight. At the end of reaction, ethyl acetate was added and the mixture was filter through celite. After removal of solvent, TFA was added to the residue. The reaction mixture was stirred at ambient temperature for 1 hour. The excess TFA was removed under vacuum and the residue was purified using prep-HPLC to give desired product (60 mg, 41% yield for two steps) as TFA salt.

reactant | 2,5-Diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.5 mmol, 100 mg | C(C)(C)(C)OC(=O)N1C2CNC(C1)C2 | C10H18N2O2
reactant | 3-fluoro-phenylbromide | 0.6 mmol, 103.8 mg | FC=1C=C(C=CC1)Br | C6H4BrF
reactant | 2-(di-t-butylphosphino)biphenyl | 0.07 mmol, 20 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 1 mmol, 100 mg | CC(C)([O-])C.[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Fluoro-phenyl)-2,5-diaza-bicyclo[2.2.1]heptane | 60 mg, 41% yield | FC=1C=C(C=CC1)N1C2CNC(C1)C2 | C11H13FN2
